US07482341B2
Piperidine-1-sulfonic acid (5-cyclopropylmethoxymethyl-pyridin-2-yl)-amide
This material was prepared in analogy to example 1 from 5-cyclopropylmethoxymethyl-pyridin-2-ylamine (0.089 g) and piperidine-1-sulfonyl chloride (0.142 g) as a light yellow gum (0.027 g). MS (ESI−): 324.2 ([M−H]−)

reactant | 5-cyclopropylmethoxymethyl-pyridin-2-ylamine | 0.089 g | C1(CC1)COCC=1C=CC(=NC1)N | C10H14N2O
reactant | piperidine-1-sulfonyl chloride | 0.142 g | N1(CCCCC1)S(=O)(=O)Cl | C5H10ClNO2S
product | Piperidine-1-sulfonic acid (5-cyclopropylmethoxymethyl-pyridin-2-yl)-amide | C1(CC1)COCC=1C=CC(=NC1)NS(=O)(=O)N1CCCCC1 | C15H23N3O3S
